US07196111B2
To a mixture of 22 mg (0.05 mmol) of 5-(4-benzyloxy-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid amide in 1 mL of dichloromethane (DCM) was added 0.04 mL (0.3 mmol) of triethylamine (Et3N), and the resulting mixture was cooled in an ice bath. Then 0.021 mL (0.15 mmol) of trifluoroacetic anhydride ((CF3CO)2O) was added during which time the mixture became homogeneous, and was stirred for 2.5 h. The reaction mixture was quenched by the addition of water, and concentrated to a residue which was purified via reverse-phase chromatography to afford (after lyophilization) 3 mg (14% yield) of desired 5-(4-benzyloxy-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carbonitrile as indicated by LC-MS calcd for C26H24N4O2 [M++H]+: 425.19, found: 425.2.

reactant | 5-(4-benzyloxy-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid amide | 0.05 mmol, 22 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1NC=2N(C(C1C1CCCCC1)=O)N=C(C2)C(=O)N | C26H26N4O3
reactant | triethylamine | 0.3 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.15 mmol, 0.021 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 5-(4-benzyloxy-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carbonitrile | 3 mg, 14% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1NC=2N(C(C1C1CCCCC1)=O)N=C(C2)C#N | C26H24N4O2
